* c:\users\vivobook\appdata\roaming\spb_data\esim-workspace\counter\counter.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ sohamsen_synchronous_down_counter
* u4  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ a2 a1 a0 dac_bridge_3
* u2  clk rst net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v1  rst gnd pulse(0 1.8 0.1n 0.1n 0.1n 30us 170us)
* u7  a0 plot_v1
* u6  a1 plot_v1
* u5  a2 plot_v1
* u3  clk plot_v1
v2 net-_sc1-pad3_ gnd  dc 1.8
* s c m o d e
xsc2 net-_sc1-pad1_ clk gnd gnd sky130_fd_pr__nfet_01v8 
xsc4 net-_sc3-pad1_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc6 clk net-_sc3-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ clk net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc3 net-_sc3-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc5 clk net-_sc3-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
* u8  rst plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] u1
a2 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] [a2 a1 a0 ] u4
a3 [clk rst ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
* Schematic Name:                             sohamsen_synchronous_down_counter, NgSpice Name: sohamsen_synchronous_down_counter
.model u1 sohamsen_synchronous_down_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.00001e-00 0.0002e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot 50 v(clk) + 40 v(rst) + 30 v(a0) +20 v(a1) + v(a2)
.endc
.end
